US09230708B2
Anhydrous methanol (50 mL) is taken in a 100 mL 2-necked round bottom flask fitted with a reflux condenser and an additional dropping funnel and cooled to ice temperature. Acetylchloride (3 mL) is added drop wise through the dropping funnel. After 15 min, L-tryptophan (3 g) is added and the reaction mixture is refluxed at 70° C. for 6 h. The reaction mixture is vacuo dried to obtain L-tryptophan methyl ester hydrochloride in quantitative yield and used for further reaction without purification. 1,4,5,8-Naphthalenetetracarboxylic dianhydride (200 mg, 0.746 mmol) and L-tryptophan methyl ester hydrochloride (380 mg 1.491 mmol) are suspended in 20 mL of DMF in a 100 mL round bottom flask. To this suspension is added 0.5 mL of triethylamine under inert atmosphere. The reaction mixture is refluxed at 65° C. for 21 h. Solvent is evaporated under vacuo and the residue is purified by column chromatography (15% methanol in chloroform) to obtain NDI 2 in good yield. Yield 86%. 1H NMR: (400 MHz, CDCl3-CF3COOH) δppm 3.64-3.70, (dd, 2H, CH2, J=8 Hz, 8 Hz); 3.78-3.84, (dd, 2H, CH2, J=8 Hz, 8 Hz); 3.90 (s, 6H, CH3); 6.12-6.16 (dd, 2H, αCH, J=8 Hz, 4 Hz); 6.86-7.02 (m, 6H, ArH); 7.13-7.15 (d, 2H, ArH, J=8 Hz); 7.46-7.48 (d, 2H, ArH, J=8 Hz); 8.57 (s, 4H, ArH). 13C NMR: (400 MHz, CDCl3-CF3COOH) δppm 24.5, 53.9, 55.1, 110.2, 110.4, 118.6, 119.8, 122.4, 123.2, 126.1, 126.6, 127.2, 131.8, 136.1, 163.0, 172.5. MS (EI): m/z=668.19[M]+ for C33H23N4O3. Elemental analysis: Found: C, 68.23; H, 4.25; N, 8.35; Calcd: C, 68.26; H, 4.22; N, 8.38 for C33H23N4O3.

reactant | Acetylchloride | 3 mL | C(C)(=O)Cl | C2H3ClO
reactant | L-tryptophan | 3 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
solvent | methanol | 50 mL | CO | CH4O
product | L-tryptophan methyl ester hydrochloride | quantitative yield | Cl.COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | InChI=1S/C12H14N2O2.ClH/c1-16-12(15)10(13)6-8-7-14-11-5-3-2-4-9(8)11;/h2-5,7,10,14H,6,13H2,1H3;1H/t10-;/m0./s1
